** sch_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/tb_csdac255.sch
**.subckt tb_csdac255
Vvcc VPWR VGND 1.8
Vvpu VAPWR VGND 3.3
Vvgnd VGND GND 0
XDAC DATA[7] DATA[6] DATA[5] DATA[4] DATA[3] DATA[2] DATA[1] DATA[0] net2 VPWR VGND Vbias net3[2] net3[1] net3[0] csdac255
XTTPIN VGND VAPWR net2 Vout tt_pin_model
R2 net1 Vout 500 m=1
Viout VAPWR net1 0
C1 Vout VGND 3p m=1
Rbias[2] net3[2] bias[2] 10k m=1
Rbias[1] net3[1] bias[1] 10k m=1
Rbias[0] net3[0] bias[0] 10k m=1
XDAC_PEX net4 VPWR VGND Vbias_pex net5[2] net5[1] net5[0] DATA[0] DATA[1] DATA[2] DATA[3] DATA[4] DATA[5] DATA[6] DATA[7]
+ csdac255_parax
Rbias1[2] net5[2] bias[2] 10k m=1
Rbias1[1] net5[1] bias[1] 10k m=1
Rbias1[0] net5[0] bias[0] 10k m=1
XTTPIN_PEX VGND VAPWR net4 Vout_pex tt_pin_model
R1 net6 Vout_pex 500 m=1
Viout_pex VAPWR net6 0
C2 Vout_pex VGND 3p m=1
**** begin user architecture code



* Set Vbias level (negative logic, so 0=ON, 1.8=OFF):
.param bias2=1.8
.param bias1=1.8
.param bias0=1.8
Vvbias2 bias[2] GND {bias2}
Vvbias1 bias[1] GND {bias1}
Vvbias0 bias[0] GND {bias0}

*NOTE: Possible ngspice bug with .IF(), so it's commented out here:
*.param singlebits=0
*.IF (singlebits == 1)
* Mode to just test each binary-weighted level:
*Vxp0 DATA[0]  GND pulse 0v 1.8v 1u 1n 1n 1u 10u
*Vxp1 DATA[1]  GND pulse 0v 1.8v 2u 1n 1n 1u 10u
*Vxp2 DATA[2]  GND pulse 0v 1.8v 3u 1n 1n 1u 10u
*Vxp3 DATA[3]  GND pulse 0v 1.8v 4u 1n 1n 1u 10u
*Vxp4 DATA[4]  GND pulse 0v 1.8v 5u 1n 1n 1u 10u
*Vxp5 DATA[5]  GND pulse 0v 1.8v 6u 1n 1n 1u 10u
*Vxp6 DATA[6]  GND pulse 0v 1.8v 7u 1n 1n 1u 10u
*Vxp7 DATA[7]  GND pulse 0v 1.8v 8u 1n 1n 1u 10u
*.ELSEIF (singlebits == 0)
* Mode to test full 0..255 trange:
Vxp0 DATA[0]  GND pulse 1.8v 0v 0n 1n 1n 39n 80n
Vxp1 DATA[1]  GND pulse 1.8v 0v 0n 1n 1n 79n 160n
Vxp2 DATA[2]  GND pulse 1.8v 0v 0n 1n 1n 159n 320n
Vxp3 DATA[3]  GND pulse 1.8v 0v 0n 1n 1n 319n 640n
Vxp4 DATA[4]  GND pulse 1.8v 0v 0n 1n 1n 639n 1280n
Vxp5 DATA[5]  GND pulse 1.8v 0v 0n 1n 1n 1279n 2560n
Vxp6 DATA[6]  GND pulse 1.8v 0v 0n 1n 1n 2559n 5120n
Vxp7 DATA[7]  GND pulse 1.8v 0v 0n 1n 1n 5119n 10240n
*.endif

*.options savecurrents
.control
	* Start with all bias[*] switches at 0V (ENb), so highest Vbias (max current sink):
	let biaslevel=7
	foreach bv2 0 1.8
		foreach bv1 0 1.8
			foreach bv0 0 1.8
				alterparam bias2 = $bv2
				alterparam bias1 = $bv1
				alterparam bias0 = $bv0
				reset
				echo Bias level $&biaslevel = $bv2 $bv1 $bv0
				save
				+ data[0] data[1] data[2] data[3] data[4] data[5] data[6] data[7]
				+ bias[0] bias[1] bias[2]
				+ vbias          vbias_pex
				+ vout i(viout)  vout_pex i(viout_pex)
				+ i(vvcc)
				+ i(vvpu)
				+ i(vvgnd)
				tran 1n 12.8u
				write tb_csdac255.raw vbias vout i(viout) i(vvgnd) i(vvcc) i(vvpu) vbias_pex vout_pex i(viout_pex)
				write tb_csdac255_all.raw
				*plot vout vbias i(viout)*1000
				set appendwrite
				reset
				let biaslevel = biaslevel - 1
			end
		end
	end
.endc



.lib /home/anton/asic/ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include /home/anton/asic/ciel/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

**** end user architecture code
**.ends

* expanding   symbol:  csdac255.sym # of pins=6
** sym_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/csdac255.sym
** sch_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/csdac255.sch
.subckt csdac255 data[7] data[6] data[5] data[4] data[3] data[2] data[1] data[0] Iout VPWR VGND Vbias bias[2] bias[1] bias[0]
*.iopin VPWR
*.opin Iout
*.iopin VGND
*.ipin bias[2],bias[1],bias[0]
*.ipin data[7],data[6],data[5],data[4],data[3],data[2],data[1],data[0]
*.opin Vbias
XThR VPWR VGND THERMO_ROWn[14] THERMO_ROWn[13] THERMO_ROWn[12] THERMO_ROWn[11] THERMO_ROWn[10] THERMO_ROWn[9] THERMO_ROWn[8] THERMO_ROWn[7] THERMO_ROWn[6] THERMO_ROWn[5] THERMO_ROWn[4] THERMO_ROWn[3] THERMO_ROWn[2] THERMO_ROWn[1] THERMO_ROWn[0] data[7] data[6] data[5] data[4] thermo15
XA VPWR VGND THERMO_ROWn[14] THERMO_ROWn[13] THERMO_ROWn[12] THERMO_ROWn[11] THERMO_ROWn[10] THERMO_ROWn[9] THERMO_ROWn[8] THERMO_ROWn[7] THERMO_ROWn[6] THERMO_ROWn[5] THERMO_ROWn[4] THERMO_ROWn[3] THERMO_ROWn[2] THERMO_ROWn[1] THERMO_ROWn[0] THERMO_COLn[14] THERMO_COLn[13] THERMO_COLn[12] THERMO_COLn[11] THERMO_COLn[10] THERMO_COLn[9] THERMO_COLn[8] THERMO_COLn[7] THERMO_COLn[6] THERMO_COLn[5] THERMO_COLn[4] THERMO_COLn[3] THERMO_COLn[2] THERMO_COLn[1] THERMO_COLn[0] Vbias Iout array255x
XThC VPWR VGND THERMO_COLn[14] THERMO_COLn[13] THERMO_COLn[12] THERMO_COLn[11] THERMO_COLn[10] THERMO_COLn[9] THERMO_COLn[8] THERMO_COLn[7] THERMO_COLn[6] THERMO_COLn[5] THERMO_COLn[4] THERMO_COLn[3] THERMO_COLn[2] THERMO_COLn[1] THERMO_COLn[0] data[3] data[2] data[1] data[0] thermo15
XVB VPWR VGND bias[2] bias[1] bias[0] Vbias vbias
.ends


* expanding   symbol:  tt_pin_model.sym # of pins=4
** sym_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/tt_pin_model.sym
** sch_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/tt_pin_model.sch
.subckt tt_pin_model VGND VAPWR mod pin
*.iopin VGND
*.iopin VAPWR
*.iopin mod
*.iopin pin
R2 net1 pin 1 m=1
C2 pin VGND 1p m=1
L7 net2 net1 1n m=1
C3 net2 VGND 2p m=1
R3 net3 net2 50 m=1
C4 net3 VGND 250f m=1
XM2 net3 VGND mod VAPWR sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=100 nf=20 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf *
+ 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 net3 VAPWR mod VGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=60 nf=12 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2)
+ * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net3 VAPWR VGND VAPWR sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=100 nf=20 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf
+ * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=15 m=15
XM3 net3 VGND VGND VGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=60 nf=12 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2)
+ * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=15 m=15
C5 mod VGND 250f m=1
.ends


* expanding   symbol:  csdac255_parax.sym # of pins=6
** sym_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/csdac255.sym
.include /home/anton/projects/ttsky25a-vga-matrix-dac/mag/csdac255.sim.spice

* expanding   symbol:  thermo15.sym # of pins=4
** sym_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/thermo15.sym
** sch_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/thermo15.sch
.subckt thermo15 VPWR VGND Tn[14] Tn[13] Tn[12] Tn[11] Tn[10] Tn[9] Tn[8] Tn[7] Tn[6] Tn[5] Tn[4] Tn[3] Tn[2] Tn[1] Tn[0] d[3] d[2] d[1] d[0]
*.iopin VPWR
*.ipin d[3],d[2],d[1],d[0]
*.iopin VGND
*.opin Tn[14],Tn[13],Tn[12],Tn[11],Tn[10],Tn[9],Tn[8],Tn[7],Tn[6],Tn[5],Tn[4],Tn[3],Tn[2],Tn[1],Tn[0]
XTA2 d[1] VGND VGND VPWR VPWR TA2 sky130_fd_sc_hd__inv_1
XTBN TAN2 VGND VGND VPWR VPWR TBN sky130_fd_sc_hd__inv_2
XTA3 d[0] d[1] VGND VGND VPWR VPWR TA3 sky130_fd_sc_hd__nand2_1
XTA1 d[0] d[1] VGND VGND VPWR VPWR TA1 sky130_fd_sc_hd__nor2_1
XTAN d[2] VGND VGND VPWR VPWR TAN sky130_fd_sc_hd__inv_1
XTB1 TA1 TAN VGND VGND VPWR VPWR TB1 sky130_fd_sc_hd__nand2_1
XTB2 TA2 TAN VGND VGND VPWR VPWR TB2 sky130_fd_sc_hd__nand2_1
XTB3 TA3 TAN VGND VGND VPWR VPWR TB3 sky130_fd_sc_hd__nand2_1
XTB4 TAN VGND VGND VPWR VPWR TB4 sky130_fd_sc_hd__inv_1
XTB5 TA1 TAN VGND VGND VPWR VPWR TB5 sky130_fd_sc_hd__nor2_1
XTB6 TA2 TAN VGND VGND VPWR VPWR TB6 sky130_fd_sc_hd__nor2_1
XTB7 TA3 TAN VGND VGND VPWR VPWR TB7 sky130_fd_sc_hd__nor2_1
XOTn0 TB1 TBN VGND VGND VPWR VPWR Tn[0] sky130_fd_sc_hd__nor2_4
XOTn1 TB2 TBN VGND VGND VPWR VPWR Tn[1] sky130_fd_sc_hd__nor2_4
XOTn2 TB3 TBN VGND VGND VPWR VPWR Tn[2] sky130_fd_sc_hd__nor2_4
XOTn3 TB4 TBN VGND VGND VPWR VPWR Tn[3] sky130_fd_sc_hd__nor2_4
XOTn4 TB5 TBN VGND VGND VPWR VPWR Tn[4] sky130_fd_sc_hd__nor2_4
XOTn5 TB6 TBN VGND VGND VPWR VPWR Tn[5] sky130_fd_sc_hd__nor2_4
XOTn6 TB7 TBN VGND VGND VPWR VPWR Tn[6] sky130_fd_sc_hd__nor2_4
XOTn7 TBN VGND VGND VPWR VPWR Tn[7] sky130_fd_sc_hd__inv_4
XOTn8 TB1 TBN VGND VGND VPWR VPWR Tn[8] sky130_fd_sc_hd__nand2_4
XOTn9 TB2 TBN VGND VGND VPWR VPWR Tn[9] sky130_fd_sc_hd__nand2_4
XOTn10 TB3 TBN VGND VGND VPWR VPWR Tn[10] sky130_fd_sc_hd__nand2_4
XOTn11 TB4 TBN VGND VGND VPWR VPWR Tn[11] sky130_fd_sc_hd__nand2_4
XOTn12 TB5 TBN VGND VGND VPWR VPWR Tn[12] sky130_fd_sc_hd__nand2_4
XOTn13 TB6 TBN VGND VGND VPWR VPWR Tn[13] sky130_fd_sc_hd__nand2_4
XOTn14 TB7 TBN VGND VGND VPWR VPWR Tn[14] sky130_fd_sc_hd__nand2_4
XTAN2 d[3] VGND VGND VPWR VPWR TAN2 sky130_fd_sc_hd__inv_1
.ends


* expanding   symbol:  array255x.sym # of pins=6
** sym_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/array255x.sym
** sch_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/array255x.sch
.subckt array255x VPWR VGND Rn[14] Rn[13] Rn[12] Rn[11] Rn[10] Rn[9] Rn[8] Rn[7] Rn[6] Rn[5] Rn[4] Rn[3] Rn[2] Rn[1] Rn[0] Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] Vbias Iout
*.iopin VPWR
*.opin Iout
*.iopin VGND
*.ipin Vbias
*.ipin Cn[14],Cn[13],Cn[12],Cn[11],Cn[10],Cn[9],Cn[8],Cn[7],Cn[6],Cn[5],Cn[4],Cn[3],Cn[2],Cn[1],Cn[0]
*.ipin Rn[14],Rn[13],Rn[12],Rn[11],Rn[10],Rn[9],Rn[8],Rn[7],Rn[6],Rn[5],Rn[4],Rn[3],Rn[2],Rn[1],Rn[0]
XIR[14] Vbias VPWR Rn[14] Rn[13] Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout row15x
XIR[13] Vbias VPWR Rn[13] Rn[12] Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout row15x
XIR[12] Vbias VPWR Rn[12] Rn[11] Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout row15x
XIR[11] Vbias VPWR Rn[11] Rn[10] Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout row15x
XIR[10] Vbias VPWR Rn[10] Rn[9] Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout row15x
XIR[9] Vbias VPWR Rn[9] Rn[8] Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout row15x
XIR[8] Vbias VPWR Rn[8] Rn[7] Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout row15x
XIR[7] Vbias VPWR Rn[7] Rn[6] Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout row15x
XIR[6] Vbias VPWR Rn[6] Rn[5] Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout row15x
XIR[5] Vbias VPWR Rn[5] Rn[4] Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout row15x
XIR[4] Vbias VPWR Rn[4] Rn[3] Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout row15x
XIR[3] Vbias VPWR Rn[3] Rn[2] Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout row15x
XIR[2] Vbias VPWR Rn[2] Rn[1] Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout row15x
XIR[1] Vbias VPWR Rn[1] Rn[0] Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout row15x
XIR[0] Vbias VPWR Rn[0] VGND Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout row15x
XIR[15] Vbias VPWR VPWR Rn[14] Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout row15x
.ends


* expanding   symbol:  vbias.sym # of pins=4
** sym_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/vbias.sym
** sch_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/vbias.sch
.subckt vbias VPWR VGND bias[2] bias[1] bias[0] Vbias
*.iopin VPWR
*.iopin VGND
*.ipin bias[2],bias[1],bias[0]
*.opin Vbias
XM1 Vbias bias[2] VPWR VPWR sky130_fd_pr__pfet_01v8 L=1 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2)
+ * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 Vbias bias[1] VPWR VPWR sky130_fd_pr__pfet_01v8 L=2 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2)
+ * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 Vbias bias[0] VPWR VPWR sky130_fd_pr__pfet_01v8 L=4 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2)
+ * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMmirror Vbias Vbias VGND VGND sky130_fd_pr__nfet_g5v0d10v5 L=1.0 W=2.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf
+ * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 Vbias VGND VPWR VPWR sky130_fd_pr__pfet_01v8 L=4 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2)
+ * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  row15x.sym # of pins=7
** sym_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/row15x.sym
** sch_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/row15x.sch
.subckt row15x Vbias VPWR Sn Rn Cn[14] Cn[13] Cn[12] Cn[11] Cn[10] Cn[9] Cn[8] Cn[7] Cn[6] Cn[5] Cn[4] Cn[3] Cn[2] Cn[1] Cn[0] VGND Iout
*.ipin Sn
*.ipin Rn
*.ipin Cn[14],Cn[13],Cn[12],Cn[11],Cn[10],Cn[9],Cn[8],Cn[7],Cn[6],Cn[5],Cn[4],Cn[3],Cn[2],Cn[1],Cn[0]
*.iopin VPWR
*.iopin VGND
*.opin Iout
*.ipin Vbias
XIC[14] VPWR VGND Rn Cn[14] Sn Vbias Iout icell
XIC[13] VPWR VGND Rn Cn[13] Sn Vbias Iout icell
XIC[12] VPWR VGND Rn Cn[12] Sn Vbias Iout icell
XIC[11] VPWR VGND Rn Cn[11] Sn Vbias Iout icell
XIC[10] VPWR VGND Rn Cn[10] Sn Vbias Iout icell
XIC[9] VPWR VGND Rn Cn[9] Sn Vbias Iout icell
XIC[8] VPWR VGND Rn Cn[8] Sn Vbias Iout icell
XIC[7] VPWR VGND Rn Cn[7] Sn Vbias Iout icell
XIC[6] VPWR VGND Rn Cn[6] Sn Vbias Iout icell
XIC[5] VPWR VGND Rn Cn[5] Sn Vbias Iout icell
XIC[4] VPWR VGND Rn Cn[4] Sn Vbias Iout icell
XIC[3] VPWR VGND Rn Cn[3] Sn Vbias Iout icell
XIC[2] VPWR VGND Rn Cn[2] Sn Vbias Iout icell
XIC[1] VPWR VGND Rn Cn[1] Sn Vbias Iout icell
XIC[0] VPWR VGND Rn Cn[0] Sn Vbias Iout icell
XIC[15] VPWR VGND VPWR VPWR Sn Vbias Iout icell
XIC_dummy_left VPWR VGND VPWR VPWR VPWR VGND net1 icell
XIC_dummy_right VPWR VGND VPWR VPWR VPWR VGND net2 icell
.ends


* expanding   symbol:  icell.sym # of pins=7
** sym_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/icell.sym
** sch_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/icell.sch
.subckt icell VPWR VGND Rn Cn Sn Vbias Iout
*.ipin Rn
*.iopin VPWR
*.opin Iout
*.iopin VGND
*.ipin Cn
*.ipin Sn
*.ipin Vbias
XMsp Ien Sn VPWR VPWR sky130_fd_pr__pfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2)
+ * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMsna Ien Sn PDM VGND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2)
+ * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMcpa Ien Cn PUM VPWR sky130_fd_pr__pfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2)
+ * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMrpa PUM Rn VPWR VPWR sky130_fd_pr__pfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2)
+ * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMrno PDM Rn VGND VGND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2)
+ * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMcno PDM Cn VGND VGND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2)
+ * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMiu SM Vbias VGND VGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2)
+ * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XMsw Iout Ien SM VGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2)
+ * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.GLOBAL VGND
.end
