** sch_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/thermo15.sch
.subckt thermo15 VPWR VGND Tn[14] Tn[13] Tn[12] Tn[11] Tn[10] Tn[9] Tn[8] Tn[7] Tn[6] Tn[5] Tn[4] Tn[3] Tn[2] Tn[1] Tn[0] d[3]
+ d[2] d[1] d[0]
*.PININFO VPWR:B d[3:0]:I VGND:B Tn[14:0]:O
XTA2 d[1] VGND VGND VPWR VPWR TA2 sky130_fd_sc_hd__inv_1
XTBN TAN2 VGND VGND VPWR VPWR TBN sky130_fd_sc_hd__inv_2
XTA3 d[0] d[1] VGND VGND VPWR VPWR TA3 sky130_fd_sc_hd__nand2_1
XTA1 d[0] d[1] VGND VGND VPWR VPWR TA1 sky130_fd_sc_hd__nor2_1
XTAN d[2] VGND VGND VPWR VPWR TAN sky130_fd_sc_hd__inv_1
XTB1 TA1 TAN VGND VGND VPWR VPWR TB1 sky130_fd_sc_hd__nand2_1
XTB2 TA2 TAN VGND VGND VPWR VPWR TB2 sky130_fd_sc_hd__nand2_1
XTB3 TA3 TAN VGND VGND VPWR VPWR TB3 sky130_fd_sc_hd__nand2_1
XTB4 TAN VGND VGND VPWR VPWR TB4 sky130_fd_sc_hd__inv_1
XTB5 TA1 TAN VGND VGND VPWR VPWR TB5 sky130_fd_sc_hd__nor2_1
XTB6 TA2 TAN VGND VGND VPWR VPWR TB6 sky130_fd_sc_hd__nor2_1
XTB7 TA3 TAN VGND VGND VPWR VPWR TB7 sky130_fd_sc_hd__nor2_1
XOTn0 TB1 TBN VGND VGND VPWR VPWR Tn[0] sky130_fd_sc_hd__nor2_4
XOTn1 TB2 TBN VGND VGND VPWR VPWR Tn[1] sky130_fd_sc_hd__nor2_4
XOTn2 TB3 TBN VGND VGND VPWR VPWR Tn[2] sky130_fd_sc_hd__nor2_4
XOTn3 TB4 TBN VGND VGND VPWR VPWR Tn[3] sky130_fd_sc_hd__nor2_4
XOTn4 TB5 TBN VGND VGND VPWR VPWR Tn[4] sky130_fd_sc_hd__nor2_4
XOTn5 TB6 TBN VGND VGND VPWR VPWR Tn[5] sky130_fd_sc_hd__nor2_4
XOTn6 TB7 TBN VGND VGND VPWR VPWR Tn[6] sky130_fd_sc_hd__nor2_4
XOTn7 TBN VGND VGND VPWR VPWR Tn[7] sky130_fd_sc_hd__inv_4
XOTn8 TB1 TBN VGND VGND VPWR VPWR Tn[8] sky130_fd_sc_hd__nand2_4
XOTn9 TB2 TBN VGND VGND VPWR VPWR Tn[9] sky130_fd_sc_hd__nand2_4
XOTn10 TB3 TBN VGND VGND VPWR VPWR Tn[10] sky130_fd_sc_hd__nand2_4
XOTn11 TB4 TBN VGND VGND VPWR VPWR Tn[11] sky130_fd_sc_hd__nand2_4
XOTn12 TB5 TBN VGND VGND VPWR VPWR Tn[12] sky130_fd_sc_hd__nand2_4
XOTn13 TB6 TBN VGND VGND VPWR VPWR Tn[13] sky130_fd_sc_hd__nand2_4
XOTn14 TB7 TBN VGND VGND VPWR VPWR Tn[14] sky130_fd_sc_hd__nand2_4
XTAN2 d[3] VGND VGND VPWR VPWR TAN2 sky130_fd_sc_hd__inv_1
.ends
